US07514470B2
1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)alaninate
Synthesized in manner similar to example 1 using 4-[(cyclopropylmethyl)amino]-2-(trifluoromethyl)benzonitrile and 1,1-dimethylethyl 2-bromopropanoate: 1H NMR (400 MHz, CDCl3) δ 7.58 (d, J=8.8 Hz, 1H), 7.04 (d, J=2.6 Hz, 1H), 6.86 (dd, J=8.9, 2.7 Hz, 1H), 4.33 (q, J=7.1 Hz, 1H), 3.30 (m, 2H), 1.54 (d, J=7.1 Hz, 3H), 1.39 (s, 9H), 0.99 (m, 1H), 0.63 (m, 2H), 0.29 (m, 2H).

reactant | 4-[(cyclopropylmethyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CNC1=CC(=C(C#N)C=C1)C(F)(F)F | C12H11F3N2
reactant | 1,1-dimethylethyl 2-bromopropanoate | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
product | 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)alaninate | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)OC(C)(C)C)CC1CC1)C(F)(F)F | C19H23F3N2O2
